US09290517B2
(3R,3aR,6R,6aR)-6-[[6-chloro-5-(4-pyrrol-1-ylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
(3R)-1-[4-[2-[[(3R,3aR,6R,6aS)-6-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]-6-chloro-1H-imidazo[4,5-b]pyridin-5-yl]phenyl]pyrrolidin-3-ol (229.7 mg, 0.401 mmol) and tetrabutylammonium fluoride 1.0 M in THF (4.2 ml, 4.20 mmol) were combined in a 40 ml vial. The reaction mixture was an amber solution that was stirred at room temperature. After 1.25 hours, the reaction mixture was partitioned between EtOAc (100 ml) and water (50 ml). The aqueous layer was separated, and extracted with EtOAc (2×50 ml). The organic layers were combined, washed with brine (1×30 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a yellow residue. This material (loaded in DMSO/MeOH) was purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting (20 ml/min) with a 17 minute 10%-60% acetonitrile/water+0.05% TFA gradient followed by a 2 minute 60% acetonitrile/water+0.05% TFA flush. The product fractions were combined, frozen, and lyophilized to give the title compound as a light yellow solid. LC-MS: calculated for C22H19ClN4O4 438.11 observed m/e: 439.18 (M+H)+ (Rt 1.14/2 min); 1H NMR δ (ppm) (500 MHz CD3OD): 7.87 (s, 1H), 7.77 (d, J=8.3 Hz, 2H), 7.60 (d, J=8.3 Hz, 2H), 7.28 (d, J=2.5 Hz, 2H), 6.33 (d, J=2.5 Hz, 2H), 5.57 (q, J=5.6 Hz, 1H), 4.98 (t, J=5.3 Hz, 1H), 4.48 (t, J=5.1 Hz, 1H), 4.28-4.32 (m, 1H), 4.18 (dd, J=10.3, 5.8 Hz, 1H), 4.13 (dd, J=10.6, 4.7 Hz, 1H), 3.91 (dd, J=8.3, 6.7 Hz, 1H), 3.61 (dd, J=9.0, 7.6 Hz, 1H).

reactant | (3R)-1-[4-[2-[[(3R,3aR,6R,6aS)-6-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]-6-chloro-1H-imidazo[4,5-b]pyridin-5-yl]phenyl]pyrrolidin-3-ol | 0.401 mmol, 229.7 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC=2NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)N1C[C@@H](CC1)O)N2 | C28H37ClN4O5Si
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 4.20 mmol, 4.2 ml | C1CCOC1 | C4H8O
product | (3R,3aR,6R,6aR)-6-[[6-chloro-5-(4-pyrrol-1-ylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)N1C=CC=C1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C22H19ClN4O4
